US06555556B1
2,6-Difluoro-4-nitrophenol
To a solution of 2,6-difluorophenol (2.00 g) in acetic acid (20 ml) was added dropwise 60% nitric acid (1.20 ml) in an ice bath and the mixture was stirred at room temperature for 1 hour. After pouring into iced water, the reaction mixture was extracted with ethyl acetate. The extract was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=3/1→2/1 as an eluant to give the desired compound (1.37 g, yield 51%) as a pale yellow solid.

reactant | 2,6-difluorophenol | 2.00 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | nitric acid | 1.20 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2,6-Difluoro-4-nitrophenol | 1.37 g, yield 51% | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)O | C6H3F2NO3
